US04894386
Manganese dioxide (5.05 g) was added in one portion to a sirred solution of 6-hydroxymethyl-3-propylindole (1.1 g) in methylene chloride (50 ml) under an atmosphere of nitrogen. The mixture was vigorously stirred for 60 min, filtered through a pad of diatomaceous earth, washing the pad several times with methylene chloride (5×30 ml). The filtrate was evaporated to give 6-formyl-3-propylindole (1.03 g, 95%) as a pale yellow oil; partial NMR (250 MHz, DMSO-d6): 0.93 (t, 3H, CH2CH3), 1.65(m, 2H, CH2CH3), 2.65(t, 2H, CH2CH2CH3), 9.98(s, 1H, CHO).

reactant | 6-hydroxymethyl-3-propylindole | 1.1 g | OCC1=CC=C2C(=CNC2=C1)CCC | C12H15NO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | Manganese dioxide | 5.05 g | [O-2].[O-2].[Mn+4]
product | 6-formyl-3-propylindole | 1.03 g, 95% | C(=O)C1=CC=C2C(=CNC2=C1)CCC | C12H13NO
